US08133882B2
200 mg of ethyl 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoate was dissolved in 2.0 ml of THF and 2.0 ml of ethanol, and 1.3 ml of aqueous 1M sodium hydroxide solution was added, followed by stirring at room temperature for 4 hours. After adding 1 M hydrochloric acid and water thereto, the insoluble materials were collected by filtration to obtain 180 mg of 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoic acid.

reactant | ethyl 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoate | 200 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)NC(CCC(=O)OCC)=O)=O)F | C26H34FN3O4
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | water | O | H2O
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoic acid | 180 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)NC(CCC(=O)O)=O)=O)F | C24H30FN3O4
